US03957814
(3-Amino- 1-(α,4-dimethyl-3-chlorobenzyl)-pyrazol-5-one). ##SPC20##
0.2 mol of 1-(α-methyl-3-chloro-4-methylbenzyl)-3-chloropyrazol-5-one was dissolved in 100 ml of ethanol, 17 g of ammonia were added and the mixture was heated to 150°C for 2 hours in a stirred autoclave. After concentrating the reaction solution, the crude product was obtained. It was recrystallized twice from ethanol.

reactant | 1-(α-methyl-3-chloro-4-methylbenzyl)-3-chloropyrazol-5-one | 0.2 mol | CC(C1=CC(=C(C=C1)C)Cl)N1NC(=CC1=O)Cl | C12H12Cl2N2O
reactant | ammonia | 17 g | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Amino- 1-(α,4-dimethyl-3-chlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)C(C1=CC(=C(C=C1)C)Cl)C | C12H14ClN3O
